* gnetlist -gspice-sdb -o teste.net flash.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*vvvvvvvv  Included SPICE model from nmos4.model vvvvvvvv
.model nmos4 NMOS(LEVEL=3 PHI=0.600000 TOX=2.1200E-08 XJ=0.200000U   
+  TPG=1 VTO=0.7860 DELTA=6.9670E-01 LD=1.6470E-07 KP=9.6379E-05
+  UO=591.7 THETA=8.1220E-02 RSH=8.5450E+01 GAMMA=0.5863
+  NSUB=2.7470E+16 NFS=1.98E+12 VMAX=1.7330E+05 ETA=4.3680E-02
+  KAPPA=1.3960E-01 CGDO=4.0241E-10 CGSO=4.0241E-10
+  CGBO=3.6144E-10 CJ=3.8541E-04 MJ=1.1854 CJSW=1.3940E-10
+  MJSW=0.125195 PB=0.800000)
*^^^^^^^^  End of included SPICE model from nmos4.model ^^^^^^^^
*
*vvvvvvvv  Included SPICE model from pmos4.model vvvvvvvv
.model pmos4 PMOS(LEVEL=3 PHI=0.600000 TOX=2.1200E-08 XJ=0.200000U 
+  TPG=-1 VTO=-0.9056 DELTA=1.5200E+00 LD=2.2000E-08 KP=2.9352E-05
+  UO=180.2 THETA=1.2480E-01 RSH=1.0470E+02 GAMMA=0.4863
+  NSUB=1.8900E+16 NFS=3.46E+12 VMAX=3.7320E+05 ETA=1.6410E-01
+  KAPPA=9.6940E+00 CGDO=5.3752E-11 CGSO=5.3752E-11
+  CGBO=3.3650E-10 CJ=4.8447E-04 MJ=0.5027 CJSW=1.6457E-10
+  MJSW=0.217168 PB=0.850000)
*^^^^^^^^  End of included SPICE model from pmos4.model ^^^^^^^^
*
*==============  Begin SPICE netlist of main design ============
MSC7/M7 5 4 SC7/GND SC7/GND nmos4  l=0.8u w=3u
MSC7/M6 5 10 3 3 pmos4  l=0.8u w=10u
MSC7/M5 8 4 SC7/GND SC7/GND nmos4  l=0.8u w=3u
MSC7/M4 8 1 10 SC7/GND nmos4  l=0.8u w=3u
MSC7/M3 6 2 8 SC7/GND nmos4  l=0.8u w=3u
MSC7/M2 10 6 3 3 pmos4  l=0.8u w=10u
MSC7/M1 3 6 6 3 pmos4  l=0.8u w=10u
MSF7/SN6/M6 359 324 SF7/SN6/GND SF7/SN6/GND nmos4  l=.8u w=3u
MSF7/SN6/M5 358 76 359 SF7/SN6/GND nmos4  l=.8u w=3u
MSF7/SN6/M4 339 325 358 SF7/SN6/GND nmos4  l=.8u w=3u
MSF7/SN6/M3 3 324 339 3 pmos4  l=.8u w=10u
MSF7/SN6/M2 339 325 3 3 pmos4  l=.8u w=10u
MSF7/SN6/M1 339 76 3 3 pmos4  l=.8u w=10u
MSC5/M7 25 4 SC5/GND SC5/GND nmos4  l=0.8u w=3u
MSF2/SN4/M4 77 77 3 3 pmos4  l=.8u w=10u
MSF2/SN4/M3 77 120 3 3 pmos4  l=.8u w=10u
MSF2/SN4/M2 144 77 SF2/SN4/GND SF2/SN4/GND nmos4  l=.8u w=3u
MSF2/SN4/M1 77 120 144 SF2/SN4/GND nmos4  l=.8u w=3u
MSC5/M6 25 30 3 3 pmos4  l=0.8u w=10u
MSC5/M5 28 4 SC5/GND SC5/GND nmos4  l=0.8u w=3u
MSC5/M4 28 1 30 SC5/GND nmos4  l=0.8u w=3u
MSF4/SN2/M4 202 76 3 3 pmos4  l=.8u w=10u
MSF4/SN2/M3 202 204 3 3 pmos4  l=.8u w=10u
MSF4/SN2/M2 212 76 SF4/SN2/GND SF4/SN2/GND nmos4  l=.8u w=3u
MSF4/SN2/M1 202 204 212 SF4/SN2/GND nmos4  l=.8u w=3u
MSC5/M3 26 24 28 SC5/GND nmos4  l=0.8u w=3u
MSC5/M2 30 26 3 3 pmos4  l=0.8u w=10u
MSF5/SN6/M6 277 242 SF5/SN6/GND SF5/SN6/GND nmos4  l=.8u w=3u
MSF5/SN6/M5 276 76 277 SF5/SN6/GND nmos4  l=.8u w=3u
MSF5/SN6/M4 257 243 276 SF5/SN6/GND nmos4  l=.8u w=3u
MSF5/SN6/M3 3 242 257 3 pmos4  l=.8u w=10u
MSF5/SN6/M2 257 243 3 3 pmos4  l=.8u w=10u
MSF5/SN6/M1 257 76 3 3 pmos4  l=.8u w=10u
MSC5/M1 3 26 26 3 pmos4  l=0.8u w=10u
MSF7/SN4/M4 77 77 3 3 pmos4  l=.8u w=10u
MSF7/SN4/M3 77 325 3 3 pmos4  l=.8u w=10u
MSF7/SN4/M2 349 77 SF7/SN4/GND SF7/SN4/GND nmos4  l=.8u w=3u
MSF7/SN4/M1 77 325 349 SF7/SN4/GND nmos4  l=.8u w=3u
MSF2/SN2/M4 120 76 3 3 pmos4  l=.8u w=10u
MSF2/SN2/M1 120 122 130 SF2/SN2/GND nmos4  l=.8u w=3u
MSF2/SN2/M3 120 122 3 3 pmos4  l=.8u w=10u
MSF2/SN2/M2 130 76 SF2/SN2/GND SF2/SN2/GND nmos4  l=.8u w=3u
MSC3/M7 45 4 SC3/GND SC3/GND nmos4  l=0.8u w=3u
MSC3/M6 45 50 3 3 pmos4  l=0.8u w=10u
MSC3/M5 48 4 SC3/GND SC3/GND nmos4  l=0.8u w=3u
MSF3/SN6/M6 195 160 SF3/SN6/GND SF3/SN6/GND nmos4  l=.8u w=3u
MSF3/SN6/M5 194 76 195 SF3/SN6/GND nmos4  l=.8u w=3u
MSF3/SN6/M4 175 161 194 SF3/SN6/GND nmos4  l=.8u w=3u
MSF3/SN6/M3 3 160 175 3 pmos4  l=.8u w=10u
MSF3/SN6/M2 175 161 3 3 pmos4  l=.8u w=10u
MSF3/SN6/M1 175 76 3 3 pmos4  l=.8u w=10u
MSC3/M2 50 46 3 3 pmos4  l=0.8u w=10u
MSC3/M4 48 1 50 SC3/GND nmos4  l=0.8u w=3u
MSC3/M3 46 44 48 SC3/GND nmos4  l=0.8u w=3u
MSF5/SN4/M4 77 77 3 3 pmos4  l=.8u w=10u
MSF5/SN4/M3 77 243 3 3 pmos4  l=.8u w=10u
MSF5/SN4/M2 267 77 SF5/SN4/GND SF5/SN4/GND nmos4  l=.8u w=3u
MSF5/SN4/M1 77 243 267 SF5/SN4/GND nmos4  l=.8u w=3u
MSC3/M1 3 46 46 3 pmos4  l=0.8u w=10u
MSF7/SN2/M4 325 76 3 3 pmos4  l=.8u w=10u
MSF7/SN2/M3 325 327 3 3 pmos4  l=.8u w=10u
MSF7/SN2/M2 335 76 SF7/SN2/GND SF7/SN2/GND nmos4  l=.8u w=3u
MSF7/SN2/M1 325 327 335 SF7/SN2/GND nmos4  l=.8u w=3u
MSF1/SN6/M6 113 78 SF1/SN6/GND SF1/SN6/GND nmos4  l=.8u w=3u
MSF1/SN6/M5 112 76 113 SF1/SN6/GND nmos4  l=.8u w=3u
MSF1/SN6/M4 93 79 112 SF1/SN6/GND nmos4  l=.8u w=3u
MSF1/SN6/M3 3 78 93 3 pmos4  l=.8u w=10u
MSF1/SN6/M2 93 79 3 3 pmos4  l=.8u w=10u
MSF1/SN6/M1 93 76 3 3 pmos4  l=.8u w=10u
MSF5/SN2/M4 243 76 3 3 pmos4  l=.8u w=10u
MSF5/SN2/M3 243 245 3 3 pmos4  l=.8u w=10u
MSF5/SN2/M2 253 76 SF5/SN2/GND SF5/SN2/GND nmos4  l=.8u w=3u
MSF3/SN4/M4 77 77 3 3 pmos4  l=.8u w=10u
MSF3/SN4/M3 77 161 3 3 pmos4  l=.8u w=10u
MSF3/SN4/M2 185 77 SF3/SN4/GND SF3/SN4/GND nmos4  l=.8u w=3u
MSF3/SN4/M1 77 161 185 SF3/SN4/GND nmos4  l=.8u w=3u
MSF5/SN2/M1 243 245 253 SF5/SN2/GND nmos4  l=.8u w=3u
MSC1/M7 65 4 SC1/GND SC1/GND nmos4  l=0.8u w=3u
MSC1/M6 65 70 3 3 pmos4  l=0.8u w=10u
MSC1/M5 68 4 SC1/GND SC1/GND nmos4  l=0.8u w=3u
MSC1/M4 68 1 70 SC1/GND nmos4  l=0.8u w=3u
MSC1/M3 66 64 68 SC1/GND nmos4  l=0.8u w=3u
MSC1/M2 70 66 3 3 pmos4  l=0.8u w=10u
MSC1/M1 3 66 66 3 pmos4  l=0.8u w=10u
MSF6/SN6/M6 318 283 SF6/SN6/GND SF6/SN6/GND nmos4  l=.8u w=3u
MSF6/SN6/M5 317 76 318 SF6/SN6/GND nmos4  l=.8u w=3u
MSF6/SN6/M4 298 284 317 SF6/SN6/GND nmos4  l=.8u w=3u
MSF6/SN6/M3 3 283 298 3 pmos4  l=.8u w=10u
MSF6/SN6/M2 298 284 3 3 pmos4  l=.8u w=10u
MSF6/SN6/M1 298 76 3 3 pmos4  l=.8u w=10u
MSF1/SN4/M4 77 77 3 3 pmos4  l=.8u w=10u
MSF1/SN4/M3 77 79 3 3 pmos4  l=.8u w=10u
MSF1/SN4/M2 103 77 SF1/SN4/GND SF1/SN4/GND nmos4  l=.8u w=3u
MSF1/SN4/M1 77 79 103 SF1/SN4/GND nmos4  l=.8u w=3u
MSF3/SN2/M4 161 76 3 3 pmos4  l=.8u w=10u
MSF3/SN2/M3 161 163 3 3 pmos4  l=.8u w=10u
MSF3/SN2/M2 171 76 SF3/SN2/GND SF3/SN2/GND nmos4  l=.8u w=3u
MSF3/SN2/M1 161 163 171 SF3/SN2/GND nmos4  l=.8u w=3u
MSF6/SN4/M4 77 77 3 3 pmos4  l=.8u w=10u
MSF6/SN4/M3 77 284 3 3 pmos4  l=.8u w=10u
MSF6/SN4/M2 308 77 SF6/SN4/GND SF6/SN4/GND nmos4  l=.8u w=3u
MSF6/SN4/M1 77 284 308 SF6/SN4/GND nmos4  l=.8u w=3u
MSF1/SN2/M4 79 76 3 3 pmos4  l=.8u w=10u
MSF1/SN2/M3 79 81 3 3 pmos4  l=.8u w=10u
MSF1/SN2/M2 89 76 SF1/SN2/GND SF1/SN2/GND nmos4  l=.8u w=3u
MSF1/SN2/M1 79 81 89 SF1/SN2/GND nmos4  l=.8u w=3u
MSF6/SN2/M4 284 76 3 3 pmos4  l=.8u w=10u
MSF6/SN2/M3 284 286 3 3 pmos4  l=.8u w=10u
MSF6/SN2/M2 294 76 SF6/SN2/GND SF6/SN2/GND nmos4  l=.8u w=3u
MSF6/SN2/M1 284 286 294 SF6/SN2/GND nmos4  l=.8u w=3u
MSF4/SN5/M4 77 216 3 3 pmos4  l=.8u w=10u
MSF4/SN5/M3 77 77 3 3 pmos4  l=.8u w=10u
MSF4/SN5/M2 231 216 SF4/SN5/GND SF4/SN5/GND nmos4  l=.8u w=3u
MSF4/SN5/M1 77 77 231 SF4/SN5/GND nmos4  l=.8u w=3u
MSF2/SN5/M4 77 134 3 3 pmos4  l=.8u w=10u
MSF2/SN5/M3 77 77 3 3 pmos4  l=.8u w=10u
MSF2/SN5/M2 149 134 SF2/SN5/GND SF2/SN5/GND nmos4  l=.8u w=3u
MSF2/SN5/M1 77 77 149 SF2/SN5/GND nmos4  l=.8u w=3u
MSF4/SN3/M4 201 35 3 3 pmos4  l=.8u w=10u
MSF4/SN3/M3 201 216 3 3 pmos4  l=.8u w=10u
MSF4/SN3/M2 219 35 SF4/SN3/GND SF4/SN3/GND nmos4  l=.8u w=3u
MSF4/SN3/M1 201 216 219 SF4/SN3/GND nmos4  l=.8u w=3u
MSC6/M7 15 4 SC6/GND SC6/GND nmos4  l=0.8u w=3u
MSC6/M6 15 20 3 3 pmos4  l=0.8u w=10u
MSC6/M5 18 4 SC6/GND SC6/GND nmos4  l=0.8u w=3u
MSC6/M4 18 1 20 SC6/GND nmos4  l=0.8u w=3u
MSC6/M3 16 14 18 SC6/GND nmos4  l=0.8u w=3u
MSC6/M2 20 16 3 3 pmos4  l=0.8u w=10u
MSC6/M1 3 16 16 3 pmos4  l=0.8u w=10u
MSF7/SN5/M4 77 339 3 3 pmos4  l=.8u w=10u
MSF7/SN5/M3 77 77 3 3 pmos4  l=.8u w=10u
MSF7/SN5/M2 354 339 SF7/SN5/GND SF7/SN5/GND nmos4  l=.8u w=3u
MSF7/SN5/M1 77 77 354 SF7/SN5/GND nmos4  l=.8u w=3u
MSF2/SN3/M4 119 55 3 3 pmos4  l=.8u w=10u
MSF2/SN3/M3 119 134 3 3 pmos4  l=.8u w=10u
MSF2/SN3/M2 137 55 SF2/SN3/GND SF2/SN3/GND nmos4  l=.8u w=3u
MSF2/SN3/M1 119 134 137 SF2/SN3/GND nmos4  l=.8u w=3u
MSF5/SN5/M4 77 257 3 3 pmos4  l=.8u w=10u
MSF5/SN5/M3 77 77 3 3 pmos4  l=.8u w=10u
MSF4/SN1/M4 204 202 3 3 pmos4  l=.8u w=10u
MSF4/SN1/M3 204 201 3 3 pmos4  l=.8u w=10u
MSF4/SN1/M2 206 202 SF4/SN1/GND SF4/SN1/GND nmos4  l=.8u w=3u
MSF4/SN1/M1 204 201 206 SF4/SN1/GND nmos4  l=.8u w=3u
MSF5/SN5/M2 272 257 SF5/SN5/GND SF5/SN5/GND nmos4  l=.8u w=3u
MSF5/SN5/M1 77 77 272 SF5/SN5/GND nmos4  l=.8u w=3u
MSC4/M7 35 4 SC4/GND SC4/GND nmos4  l=0.8u w=3u
MSC4/M6 35 40 3 3 pmos4  l=0.8u w=10u
MSC4/M5 38 4 SC4/GND SC4/GND nmos4  l=0.8u w=3u
MSC4/M4 38 1 40 SC4/GND nmos4  l=0.8u w=3u
MSC4/M3 36 34 38 SC4/GND nmos4  l=0.8u w=3u
MSC4/M2 40 36 3 3 pmos4  l=0.8u w=10u
MSC4/M1 3 36 36 3 pmos4  l=0.8u w=10u
MSF7/SN3/M4 324 5 3 3 pmos4  l=.8u w=10u
MSF7/SN3/M3 324 339 3 3 pmos4  l=.8u w=10u
MSF7/SN3/M2 342 5 SF7/SN3/GND SF7/SN3/GND nmos4  l=.8u w=3u
MSF7/SN3/M1 324 339 342 SF7/SN3/GND nmos4  l=.8u w=3u
V6 76 0 pulse 0 5 10n 10n 100n 1u 2u
V5 75 0 DC 1V
V4 1 0 DC 1V
MSF2/SN1/M4 122 120 3 3 pmos4  l=.8u w=10u
MSF2/SN1/M3 122 119 3 3 pmos4  l=.8u w=10u
MSF2/SN1/M2 124 120 SF2/SN1/GND SF2/SN1/GND nmos4  l=.8u w=3u
MSF2/SN1/M1 122 119 124 SF2/SN1/GND nmos4  l=.8u w=3u
MSC2/M6 55 60 3 3 pmos4  l=0.8u w=10u
MSC2/M5 58 4 SC2/GND SC2/GND nmos4  l=0.8u w=3u
V3 3 0 DC 1V
MSC2/M7 55 4 SC2/GND SC2/GND nmos4  l=0.8u w=3u
MSF3/SN5/M4 77 175 3 3 pmos4  l=.8u w=10u
MSF3/SN5/M3 77 77 3 3 pmos4  l=.8u w=10u
MSF3/SN5/M2 190 175 SF3/SN5/GND SF3/SN5/GND nmos4  l=.8u w=3u
MSF3/SN5/M1 77 77 190 SF3/SN5/GND nmos4  l=.8u w=3u
MSC2/M2 60 56 3 3 pmos4  l=0.8u w=10u
MSC2/M4 58 1 60 SC2/GND nmos4  l=0.8u w=3u
MSC2/M3 56 54 58 SC2/GND nmos4  l=0.8u w=3u
MSF5/SN3/M4 242 25 3 3 pmos4  l=.8u w=10u
MSF5/SN3/M3 242 257 3 3 pmos4  l=.8u w=10u
MSF5/SN3/M2 260 25 SF5/SN3/GND SF5/SN3/GND nmos4  l=.8u w=3u
MSF5/SN3/M1 242 257 260 SF5/SN3/GND nmos4  l=.8u w=3u
MSC2/M1 3 56 56 3 pmos4  l=0.8u w=10u
V1 74 0 DC 1V
V2 4 0 DC 1V
MSF7/SN1/M4 327 325 3 3 pmos4  l=.8u w=10u
MSF7/SN1/M3 327 324 3 3 pmos4  l=.8u w=10u
MSF7/SN1/M2 329 325 SF7/SN1/GND SF7/SN1/GND nmos4  l=.8u w=3u
MSF7/SN1/M1 327 324 329 SF7/SN1/GND nmos4  l=.8u w=3u
MSF1/SN5/M4 77 93 3 3 pmos4  l=.8u w=10u
MSF1/SN5/M3 77 77 3 3 pmos4  l=.8u w=10u
MSF1/SN5/M2 108 93 SF1/SN5/GND SF1/SN5/GND nmos4  l=.8u w=3u
MSF1/SN5/M1 77 77 108 SF1/SN5/GND nmos4  l=.8u w=3u
MSF3/SN3/M4 160 45 3 3 pmos4  l=.8u w=10u
MSF3/SN3/M3 160 175 3 3 pmos4  l=.8u w=10u
MSF3/SN3/M2 178 45 SF3/SN3/GND SF3/SN3/GND nmos4  l=.8u w=3u
MSF3/SN3/M1 160 175 178 SF3/SN3/GND nmos4  l=.8u w=3u
MSF5/SN1/M4 245 243 3 3 pmos4  l=.8u w=10u
MSF5/SN1/M3 245 242 3 3 pmos4  l=.8u w=10u
MSF5/SN1/M2 247 243 SF5/SN1/GND SF5/SN1/GND nmos4  l=.8u w=3u
MSF5/SN1/M1 245 242 247 SF5/SN1/GND nmos4  l=.8u w=3u
MSF6/SN5/M4 77 298 3 3 pmos4  l=.8u w=10u
MSF6/SN5/M3 77 77 3 3 pmos4  l=.8u w=10u
MSF6/SN5/M2 313 298 SF6/SN5/GND SF6/SN5/GND nmos4  l=.8u w=3u
MSF6/SN5/M1 77 77 313 SF6/SN5/GND nmos4  l=.8u w=3u
MSF1/SN3/M4 78 65 3 3 pmos4  l=.8u w=10u
MSF1/SN3/M3 78 93 3 3 pmos4  l=.8u w=10u
MSF1/SN3/M2 96 65 SF1/SN3/GND SF1/SN3/GND nmos4  l=.8u w=3u
MSF1/SN3/M1 78 93 96 SF1/SN3/GND nmos4  l=.8u w=3u
MSF3/SN1/M4 163 161 3 3 pmos4  l=.8u w=10u
MSF3/SN1/M3 163 160 3 3 pmos4  l=.8u w=10u
MSF3/SN1/M2 165 161 SF3/SN1/GND SF3/SN1/GND nmos4  l=.8u w=3u
MSF3/SN1/M1 163 160 165 SF3/SN1/GND nmos4  l=.8u w=3u
MSF6/SN3/M4 283 15 3 3 pmos4  l=.8u w=10u
MSF6/SN3/M3 283 298 3 3 pmos4  l=.8u w=10u
MSF6/SN3/M2 301 15 SF6/SN3/GND SF6/SN3/GND nmos4  l=.8u w=3u
MSF6/SN3/M1 283 298 301 SF6/SN3/GND nmos4  l=.8u w=3u
MSF1/SN1/M4 81 79 3 3 pmos4  l=.8u w=10u
MSF1/SN1/M3 81 78 3 3 pmos4  l=.8u w=10u
MSF1/SN1/M2 83 79 SF1/SN1/GND SF1/SN1/GND nmos4  l=.8u w=3u
MSF1/SN1/M1 81 78 83 SF1/SN1/GND nmos4  l=.8u w=3u
MSF6/SN1/M4 286 284 3 3 pmos4  l=.8u w=10u
MSF6/SN1/M3 286 283 3 3 pmos4  l=.8u w=10u
MSF6/SN1/M2 288 284 SF6/SN1/GND SF6/SN1/GND nmos4  l=.8u w=3u
MSF6/SN1/M1 286 283 288 SF6/SN1/GND nmos4  l=.8u w=3u
R9 0 77  
R8 2 75 10k  
R7 14 2 10k  
R6 24 14 10k  
R5 34 24 10k  
R4 44 34 10k  
R3 54 44 10k  
R2 64 54 10k  
R1 74 64 10k  
MSF4/SN6/M2 216 202 3 3 pmos4  l=.8u w=10u
MSF4/SN6/M6 236 201 SF4/SN6/GND SF4/SN6/GND nmos4  l=.8u w=3u
MSF4/SN6/M5 235 76 236 SF4/SN6/GND nmos4  l=.8u w=3u
MSF4/SN6/M4 216 202 235 SF4/SN6/GND nmos4  l=.8u w=3u
MSF4/SN6/M3 3 201 216 3 pmos4  l=.8u w=10u
MSF4/SN6/M1 216 76 3 3 pmos4  l=.8u w=10u
.INCLUDE flash.cmd
MSF2/SN6/M6 154 119 SF2/SN6/GND SF2/SN6/GND nmos4  l=.8u w=3u
MSF2/SN6/M5 153 76 154 SF2/SN6/GND nmos4  l=.8u w=3u
MSF2/SN6/M4 134 120 153 SF2/SN6/GND nmos4  l=.8u w=3u
MSF2/SN6/M3 3 119 134 3 pmos4  l=.8u w=10u
MSF2/SN6/M2 134 120 3 3 pmos4  l=.8u w=10u
MSF2/SN6/M1 134 76 3 3 pmos4  l=.8u w=10u
MSF4/SN4/M4 77 77 3 3 pmos4  l=.8u w=10u
MSF4/SN4/M3 77 202 3 3 pmos4  l=.8u w=10u
MSF4/SN4/M2 226 77 SF4/SN4/GND SF4/SN4/GND nmos4  l=.8u w=3u
MSF4/SN4/M1 77 202 226 SF4/SN4/GND nmos4  l=.8u w=3u
.end
